* =========================================================
* 6CL6 / 6CL6A RF Pentode
* Refined fitted model for Qucs-S / ngspice
*
* Pin order:
*   P  = Plate
*   G2 = Screen Grid
*   G1 = Control Grid
*   K  = Cathode
*
* =========================================================

.SUBCKT 6CL6 P G2 G1 K

+ PARAMS:
+ MU=2.71
+ EX=1.42
+ KG1=18200
+ KP=82
+ KVB=14
+ VCT=0
+ KG2=365
+ RGI=3000

*-----------------------------------------------------------------
* Plate current model
*-----------------------------------------------------------------

E1 7 0 VALUE={
+ V(P,K)/KP *
+ LOG(1 + EXP(
+ KP * (
+ 1/MU +
+ (V(G1,K)+VCT) /
+ SQRT(KVB + V(P,K) + 0.55*V(G2,K))
+ )))
+}

G1 P K VALUE={
+ (PWR(V(7),EX) + PWRS(V(7),EX)) / KG1
+}

*-----------------------------------------------------------------
* Screen current model
*-----------------------------------------------------------------

G2 G2 K VALUE={
+ 3.2e-6 *
+ PWR(MAX(V(G2,K)+0.1,0),1.72) *
+ EXP(0.018*V(G1,K))
+}

*-----------------------------------------------------------------
* Grid conduction
*-----------------------------------------------------------------

D1 G1 K DX

.MODEL DX D(
+ IS=8E-9
+ N=1.25
+ RS=120
+)

R1 G1 K {RGI}

*-----------------------------------------------------------------
* Interelectrode capacitances
*-----------------------------------------------------------------

Cpg1  P   G1  0.13p
Cg1k  G1  K   11p
Cpg2  P   G2  0.18p
Cg2k  G2  K   5.8p
Cg1g2 G1  G2  3.8p

*-----------------------------------------------------------------
* Small parasitic resistances
*-----------------------------------------------------------------

Rp   P    K   3Meg
Rg2  G2   K   2Meg

.ENDS 6CL6
